US04174317
(B) 3,3-Dichloro-1-[3-(dimethylamino)propyl]-4-(2-naphthalenyl)-2-azetidinone, hydrochloride (1:1)
N,N-Dimethyl-N'-(2-naphthalenylmethylene)-1,3-propanediamine (11 g) and 19.7 g of trichloroacetic anhydride are reacted in 90 ml. of xylene following the procedure described in Example 1 (final heating period 20 minutes on steam bath) to give 11.5 g of crude base as an oil. The oil is dissolved in dichloromethane, treated with 6 ml. of 5.6 N alcoholic hydrogen chloride, and the solvents are removed on a rotary evaporator; the solid residue weighs 12 g, melting point 183°-185° C. Crystallization from 80 ml. of acetonitrile gives 9.1 g of solid; melting point 199°-201° C. Recrystallization from 125 ml. of acetonitrile yields 7.3 g of the title compound, melting point 200°-202° C.

reactant | N,N-Dimethyl-N'-(2-naphthalenylmethylene)-1,3-propanediamine | 11 g | CN(CCCN=CC1=CC2=CC=CC=C2C=C1)C | C16H20N2
reactant | trichloroacetic anhydride | 19.7 g | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,3-Dichloro-1-[3-(dimethylamino)propyl]-4-(2-naphthalenyl)-2-azetidinone, hydrochloride | 9.1 g | Cl.ClC1(C(N(C1C1=CC2=CC=CC=C2C=C1)CCCN(C)C)=O)Cl | InChI=1S/C18H20Cl2N2O.ClH/c1-21(2)10-5-11-22-16(18(19,20)17(22)23)15-9-8-13-6-3-4-7-14(13)12-15;/h3-4,6-9,12,16H,5,10-11H2,1-2H3;1H
